US07893267B2
0.5 g (2.12 mmol) of 2-amino-6-nitro-1H-benzoimidazole-4-carboxylic acid methyl ester was reacted with 0.37 g (2.12 mmol) of isoquinoline 3-carboxylic acid and 0.89 g (2.33 mmol) of HBTU as described in general procedure A to provide 0.67 g (80%) of 2-[(Isoquinoline-3-carbonyl)-amino]-6-nitro-1H-benzoimidazole-4-carboxylic acid methyl ester. LCMS: 392 (M+1)+. The ester was dissolved in dry DMF (5 mL) and 0.22 g (5.1 mmol) of LiCl in one portion was added. The resulting mixture was stirred at 120° C. for 12 h, diluted with water, and the solid was collected by filtration. The solid was washed with water (20 mL), ether (10 mL) and dried under vacuum to provide 0.6 g (93%) of 2-[(isoquinoline-3-carbonyl)-amino]-6-nitro-1H-benzoimidazole-4-carboxylic acid. LCMS: 378 (M+1)+.

reactant | 2-amino-6-nitro-1H-benzoimidazole-4-carboxylic acid methyl ester | 2.12 mmol, 0.5 g | COC(=O)C1=CC(=CC=2NC(=NC21)N)[N+](=O)[O-] | C9H8N4O4
reactant | isoquinoline 3-carboxylic acid | 2.12 mmol, 0.37 g | C1=NC(=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | HBTU | 2.33 mmol, 0.89 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
product | 2-[(Isoquinoline-3-carbonyl)-amino]-6-nitro-1H-benzoimidazole-4-carboxylic acid methyl ester | 0.67 g, 80% | COC(=O)C1=CC(=CC=2NC(=NC21)NC(=O)C=2N=CC1=CC=CC=C1C2)[N+](=O)[O-] | C19H13N5O5
